US05521179
To a solution of 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (1.00 g) in dry methylene chloride (17 mL) was added dry triethylamine (1.91 mL). The resultant solution was cooled to 0° C. and was treated with a solution of triphosgene (288 mg) in methylene chloride (3 mL) over 5 min. The addition syringe was washed with 2 mL fresh methylene chloride which was then added to the reaction mixture. The reaction mixture was stirred at 0° C. for 45 min, at which time 4-pyridylcarbinol (688 mg) was added as a solid. Stirring was continued 1 h at 0° C. then overnight at room temperature. The mixture was diluted with methylene chloride, washed (saturated sodium bicarbonate solution), dried and evaporated to a brown foam. Purification by flash chromatography, eluting with methylene chloride:methanol (50:1) gave N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[2-oxo-6-phenyl-3-(4-pyridylmethoxycarbonylamino)-1,2-dihydro-1-pyridyl]acetamide as a yellow-brown solid (1.18 g); TLC: Rf =0.36, eluted twice with dichloromethane:methanol (50:1); MS: m/z=647(M+1).

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 1.00 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C25H36F3N3O3Si
reactant | triethylamine | 1.91 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 288 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methylene chloride | 17 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[2-oxo-6-phenyl-3-(4-pyridylmethoxycarbonylamino)-1,2-dihydro-1-pyridyl]acetamide | 1.18 g | [Si](C)(C)(C(C)(C)C)OC(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(=O)OCC1=CC=NC=C1)=O)=O)C(F)(F)F | C32H41F3N4O5Si
